US05122523
44 mg of (4S,5RS)-3-benzyloxycarbonyl 4-cyclohexylmethyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-(diethylamino)ethyl]oxazolidine was dissolved in 1.5 ml of ethanol, and palladium black was added thereto. The mixture was treated in the same manner as in Example 17 to obtain 29.5 mg of (2RS,3RS,4S)-4-amino-5-cyclohexyl-1-diethylamino-2,3-pentanediol as colorless oily substance.

reactant | (4S,5RS)-3-benzyloxycarbonyl 4-cyclohexylmethyl-2,2-dimethyl-5-[(1RS)-1-hydroxy-2-(diethylamino)ethyl]oxazolidine | 44 mg | C(C1=CC=CC=C1)OC(=O)N1C(OC([C@@H]1CC1CCCCC1)C(CN(CC)CC)O)(C)C | C26H42N2O4
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
catalyst | palladium black | [Pd] | Pd
product | (2RS,3RS,4S)-4-amino-5-cyclohexyl-1-diethylamino-2,3-pentanediol | 29.5 mg | N[C@H](C(C(CN(CC)CC)O)O)CC1CCCCC1 | C15H32N2O2
